US06960598B2
A mixture of 2,6-dibromopyridine (2.07 g, 8.7 mmol), 2-(4,4,5,5-tetramethyl[1,3,2]-dioxaborolan-2-yl)benzonitrile (prepared as described in Tetrahedron (2001), 57(49), 9813-9816, 3.00 g, 13 mmol) and potassium phosphate (3.71 g, 17 mmol) in DMF (40 mL) was degassed with nitrogen. Tetrakis(triphenylphosphine)palladium(0) (303 mg, 0.26 mmol) was added, the mixture was degassed as before, and was then stirred at 80° C. under nitrogen overnight. The mixture was partitioned between water and ethyl acetate, and the resulting aqueous layer was washed with ethyl acetate (2×100 mL). The combined organic layers were washed with water (1×100 mL) and saturated sodium chloride solution (1×100 mL), then were dried over magnesium sulfate and concentrated in vacuo. The residual material was purified by flash chromatography on silica gel, eluting with 50% ethyl acetate in isohexane, affording 2-(6-bromopyridin-2-yl)benzonitrile as a solid (680 mg, 30%). δH (400 MHz, CDCl3) 7.51-7.57 (2H, m), 7.68-7.73 (2H, m), 7.80 (2H, d, J 7.7), 7.91 (1H, dd, J 0.7 and 7.7).

reactant | 2,6-dibromopyridine | 8.7 mmol, 2.07 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | 2-(4,4,5,5-tetramethyl[1,3,2]-dioxaborolan-2-yl)benzonitrile | 13 mmol, 3.00 g | CC1(OB(OC1(C)C)C1=C(C#N)C=CC=C1)C | C13H16BNO2
reactant | potassium phosphate | 17 mmol, 3.71 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.26 mmol, 303 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(6-bromopyridin-2-yl)benzonitrile | 680 mg, 30% | BrC1=CC=CC(=N1)C1=C(C#N)C=CC=C1 | C12H7BrN2
